US05747236
30. Preparation of N-(4-Chlorophenyl)alanine ethyl ester
This compound was prepared in a manner analagous to the process described in synthesis example 14, except using 4-chloroaniline and ethyl 2-bromoproprionate.

reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | ethyl 2-bromoproprionate | BrC(C(=O)OCC)C | C5H9BrO2
product | N-(4-Chlorophenyl)alanine ethyl ester | C(C)OC([C@@H](NC1=CC=C(C=C1)Cl)C)=O | C11H14ClNO2
